US07482350B2
Step 2. Preparation of (1S)-N-{[4-(aminomethyl)-2-(2,6-diethylphenyl)-6-methylpyrimidin-5-yl]methyl}-N-methyl-1,2,3,4-tetrahydronaphthalen-1-amine
To a flask containing 2-(2,6-diethylphenyl)-6-methyl-5-({methyl[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}methyl)pyrimidine-4-carbonitrile (50 mg, 0.118 mmol) in toluene (5.0 mL) is cooled to 0° C. using an ice bath. DIBAL (0.354 mL of a 1.5 M solution in toluene, 3.0 eq., 0.53 mmol) is then added and the reaction is allowed to proceed for 3 h warming to room temperature. HCl (1.0 M, 1.0 mL) is added and allowed to stir for 10 min, followed by basification with NaOH (5N. EtOAc (20 mL) is added and the organic layer is washed with NaHCO3 (10%, 100 mL), brine (100 mL) and dried over Na2SO4. SiO2 plate chromatography eluting with 20:1 CHCl3:MeOH affords the title compound as a white foam. [mass expected (428.61); mass found (428.38)].

reactant | 2-(2,6-diethylphenyl)-6-methyl-5-({methyl[(1S)-1,2,3,4-tetrahydronaphthalen-1-yl]amino}methyl)pyrimidine-4-carbonitrile | 0.118 mmol, 50 mg | C(C)C1=C(C(=CC=C1)CC)C1=NC(=C(C(=N1)C#N)CN([C@H]1CCCC2=CC=CC=C12)C)C | C28H32N4
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | HCl | 1.0 M, 1.0 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | (1S)-N-{[4-(aminomethyl)-2-(2,6-diethylphenyl)-6-methylpyrimidin-5-yl]methyl}-N-methyl-1,2,3,4-tetrahydronaphthalen-1-amine | NCC1=NC(=NC(=C1CN([C@H]1CCCC2=CC=CC=C12)C)C)C1=C(C=CC=C1CC)CC | C28H36N4
